US08710060B2
(48A) Methyl trans-4-(3-cyanophenoxy)cyclohexanecarboxylate
3-Cyanophenol (3.00 g, 25.2 mmol) and methyl cis-4-hydroxycyclohexanecarboxylate (2.66 g, 16.8 mmol) were dissolved in toluene (80 mL), and cyanomethylenetributylphosphorane (6.6 mL, 25.2 mmol) was added thereto, and then, the resulting mixture was heated to reflux under a nitrogen atmosphere for 2.5 hours.

reactant | 3-Cyanophenol | 25.2 mmol, 3.00 g | C(#N)C=1C=C(C=CC1)O | C7H5NO
reactant | methyl cis-4-hydroxycyclohexanecarboxylate | 16.8 mmol, 2.66 g | O[C@H]1CC[C@H](CC1)C(=O)OC | C8H14O3
reactant | cyanomethylenetributylphosphorane | 25.2 mmol, 6.6 mL | C(#N)C=P(CCCC)(CCCC)CCCC | C14H28NP
solvent | toluene | 80 mL | C1(=CC=CC=C1)C | C7H8
product | Methyl trans-4-(3-cyanophenoxy)cyclohexanecarboxylate | C(#N)C=1C=C(O[C@@H]2CC[C@H](CC2)C(=O)OC)C=CC1 | C15H17NO3
